US09193733B2
Step 1. tert-butyl 4-{[6-chloro-2-(trifluoromethyl)pyrimidin-4-yl]amino}piperidine-1-carboxylate
tert-Butyl 4-aminopiperidine-1-carboxylate (1.4 g, 7.1 mmol, Aldrich) was dissolved in methylene chloride (10. mL) and to this solution was added N,N-diisopropylethylamine (2.5 mL, 14 mmol) and 4,6-dichloro-2-(trifluoromethyl)pyrimidine (1.7 g, 7.8 mmol, Synchem). The reaction was stirred overnight. The mixture was diluted with water and the product was extracted with EtOAc. The organic layer was washed twice with water, once with brine, dried over sodium sulfate, filtered and concentrated to afford product which was used without further purification in Step 2. LCMS (M+H)+: 381.1.

reactant | tert-Butyl 4-aminopiperidine-1-carboxylate | 7.1 mmol, 1.4 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | N,N-diisopropylethylamine | 14 mmol, 2.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4,6-dichloro-2-(trifluoromethyl)pyrimidine | 7.8 mmol, 1.7 g | ClC1=NC(=NC(=C1)Cl)C(F)(F)F | C5HCl2F3N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 4-{[6-chloro-2-(trifluoromethyl)pyrimidin-4-yl]amino}piperidine-1-carboxylate | ClC1=CC(=NC(=N1)C(F)(F)F)NC1CCN(CC1)C(=O)OC(C)(C)C | C15H20ClF3N4O2
